US04690925
A solution of 4-(3-formyl-4-nitrophenyl)oxybutyric acid chloride was added dropwise to a solution of N-cyclohexyl glycinamide (7.8 g) and sodium carbonate (6.90 g) in aqueous tetrahydrofuran cooled to 5° C. The reaction was stirred at room temperature for 1 hour, then extracted with ethyl acetate. The organic extract was washed with saturated sodium bicarbonate three times, 3×1M HCl and 2×brine, filtered and the solvent evaporated to give 2-(N-cyclohexyl-4-(3-formyl-4-nitrophenyl)oxybutyramidyl)acetamide as a solid, m.p. 104°-105° C. Similarly, treatment of cyclohexyl R7R8 -N-substituted acetamides from Preparation 2 gives the corresponding 2-(N-cyclohexyl-4-(3-nitro-4-formylphenyl)oxybutyramidyl-R7R8 -N-substituted acetamides.

reactant | 4-(3-formyl-4-nitrophenyl)oxybutyric acid chloride | C(=O)C=1C=C(C=CC1[N+](=O)[O-])OCCCC(=O)Cl | C11H10ClNO5
reactant | N-cyclohexyl glycinamide | 7.8 g | C1(CCCCC1)NC(CN)=O | C8H16N2O
reactant | sodium carbonate | 6.90 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-(N-cyclohexyl-4-(3-formyl-4-nitrophenyl)oxybutyramidyl)acetamide | C1(CCCCC1)N(C(CCCOC1=CC(=C(C=C1)[N+](=O)[O-])C=O)=O)CC(=O)N | C19H25N3O6
